US04604243
Following the general procedure of Example I, 280 mmols of distilled methyl methacrylate were reacted with 25 mmols of distilled aniline in 30 mL of acetonitrile and in the presence of 38 mmols of concentrated HCl and 2.5 mmols of cuprous oxide. The process resulted in an 80% yield of methyl 2-chloro-2-methyl-3-phenylpropionate.

reactant | methyl methacrylate | 280 mmols | C(C(=C)C)(=O)OC | C5H8O2
reactant | aniline | 25 mmols | NC1=CC=CC=C1 | C6H7N
reactant | HCl | 38 mmols | Cl | ClH
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | methyl 2-chloro-2-methyl-3-phenylpropionate | 80% yield | ClC(C(=O)OC)(CC1=CC=CC=C1)C | C11H13ClO2
